US05439925
(e) Methyl 4-[3-(1-adamantyl)-4-methoxyphenylacetamido]benzoate
In a manner similar to Example 1(d), by reaction of 3.8 g (11.9 mmol) of 3-(1-adamantyl)-4-methoxyphenylacetyl chloride with 1.81 g (12 mmol) of methyl 4-aminobenzoate, 3.2 g (63%) of the expected methyl ester, melting point 146°-147° C., are obtained.

reactant | 3-(1-adamantyl)-4-methoxyphenylacetyl chloride | 11.9 mmol, 3.8 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)CC(=O)Cl | C19H23ClO2
reactant | methyl 4-aminobenzoate | 12 mmol, 1.81 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
product | Methyl 4-[3-(1-adamantyl)-4-methoxyphenylacetamido]benzoate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)CC(=O)NC2=CC=C(C(=O)OC)C=C2 | C27H31NO4
